US08222416B2
To a stirred solution of {2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-ethyl]-1H-pyrrolo[2,3-b]pyridin-5-yl}-acetaldehyde (65 mg, 0.158 mmol) in dry methanol at 0° C. (5 mL) was added sodium borohydride (60 mg, 1.58 mmol). The resulting mixture was stirred at room temperature for 2 h, quenched with a saturated aqueous ammonium chloride solution, extracted with ethyl acetate, washed with brine, and dried over anhydrous sodium sulfate. The solvent was evaporated in vacuo. Purification using a Waters automated flash system (column: Xterra 30 mm×100 mm, sample manager 2767, pump 2525, detector: ZQ mass and UV 2487, solvent system: acetonitrile and 0.1% ammonium hydroxide in water) afforded 2-{2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-ethyl]-1H-pyrrolo[2,3-b]pyridin-5-yl}-ethanol (20 mg, 30.7%) as a white solid: LC/MS m/e calcd for C23H28N2O3S [M+H]+ 413.56, observed 413.2; 1H NMR (400 MHz, CD3OD) δ ppm 7.99 (s, 1H), 7.87-7.92 (m, J=8.3 Hz, 2H), 7.79 (s, 1H), 7.58-7.63 (m, J=8.3 Hz, 2H), 6.36 (s, 1H), 4.31 (t, J=7.8 Hz, 1H), 3.78 (t, J=6.8 Hz, 2H), 3.10 (s, 3H), 2.90 (t, J=6.8 Hz, 2H), 2.25-2.33 (m, 1H), 2.07-2.15 (m, 1H), 1.62-1.87 (m, 5H), 1.46-1.56 (m, 2H), 1.19-1.31 (m, 2H).

reactant | {2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-ethyl]-1H-pyrrolo[2,3-b]pyridin-5-yl}-acetaldehyde | 0.158 mmol, 65 mg | C1(CCCC1)CC(C1=CC=C(C=C1)S(=O)(=O)C)C1=CC=2C(=NC=C(C2)CC=O)N1 | C23H26N2O3S
reactant | sodium borohydride | 1.58 mmol, 60 mg | [BH4-].[Na+]
solvent | methanol | CO | CH4O
product | 2-{2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-ethyl]-1H-pyrrolo[2,3-b]pyridin-5-yl}-ethanol | 20 mg, 30.7% | C1(CCCC1)CC(C1=CC=C(C=C1)S(=O)(=O)C)C1=CC=2C(=NC=C(C2)CCO)N1 | C23H28N2O3S
